US05455252
2-bromo-4-methylaniline and glycerol can be combined to form 6-methyl-8-bromoquinoline,

reactant | 2-bromo-4-methylaniline | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | glycerol | OCC(O)CO | C3H8O3
product | 6-methyl-8-bromoquinoline | CC=1C=C2C=CC=NC2=C(C1)Br | C10H8BrN
